US04170584
2-Butoxyethylfuroate
2-Butoxyethanol (butyl cellosolve) 121 g (1.02 m), furoic acid 95 g (0.85 m) and 1 g dibutyltin dioctoate were heated with a xylene azeotrope to acid number 3. Xylene removed by distillation to a pot temperature of 200° and reaction product distilled. 2-Butoxyethylfuroate collected in fraction 2, 111°-104°. Yield 162 g, 86%.

reactant | 2-Butoxyethanol | 121 g | C(CCC)OCCO | C6H14O2
reactant | furoic acid | 95 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | dibutyltin dioctoate | 1 g | CCCCCCCC(=O)O[Sn](CCCC)(CCCC)OC(=O)CCCCCCC
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Butoxyethylfuroate | C(CCC)OCCOC(=O)C=1OC=CC1 | C11H16O4
